US05939545
3α-hydroxy-21-bromo-5β-pregnan-20-one:
To a flask containing a solution of 3α-hydroxy-5β-pregnan-20-one (5.15 g, 16.5 mmol) in methanol (100 mL) was added a solution of bromine (1.1 mL) in methanol (30 mL) dropwise in such a rate to maintain the brown color of the bromine until this color was persistent. Then water (200 mL) was added and the mixture was extracted with CH2Cl2 (3×100 mL). The combined extracts were dried over Na2SO4. Removal of the solvent resulted in the product as a foamy white solid (6.63 g). Other 21-bromo-pregnan-20-ones (3β-ethynyl-3α-hydroxy-21-bromo-5β-pregnan-20-one, 3β-methyl-3α-hydroxy-21-bromo-5α-pregnan-20-one and 3α-hydroxy-3β-trifluoromethyl-12-bromo-5β-19-norpregnan-20-one) were synthesized using the same method.

reactant | 3α-hydroxy-5β-pregnan-20-one | 16.5 mmol, 5.15 g | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | bromine | 1.1 mL | BrBr | Br2
reactant | water | 200 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
product | 3α-hydroxy-21-bromo-5β-pregnan-20-one | 6.63 g | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H](C(CBr)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H33BrO2
